US06380218B1
2-(Benzothiazol-6-yloxy)-N-(4-(1-hydroxy-1-methyl-ethyl)-benzyl)-nicotinamide
Prepared from 2-(Benzothiazol-6-yloxy)-nicotinic acid and 2-(4-aminomethyl-phenyl)-propan-2-ol. mp195-7° C.

reactant | 2-(Benzothiazol-6-yloxy)-nicotinic acid | S1C=NC2=C1C=C(C=C2)OC2=C(C(=O)O)C=CC=N2 | C13H8N2O3S
reactant | 2-(4-aminomethyl-phenyl)-propan-2-ol | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
product | 2-(Benzothiazol-6-yloxy)-N-(4-(1-hydroxy-1-methyl-ethyl)-benzyl)-nicotinamide | S1C=NC2=C1C=C(C=C2)OC2=C(C(=O)NCC1=CC=C(C=C1)C(C)(C)O)C=CC=N2 | C23H21N3O3S
